US04479955
A solution of 1.75 g of ethyl 4-chloro-1,6-naphthyridine-3-carboxylate and 1.17 g of 2-hydrazinopyrimidine hydrochloride (prepared according to Yakugakuzasshi, 1953, 73, 598) in 60 ml of n-butanol is refluxed for 3 hours. The resultant slurry is cooled to room temperature and filtered. Collected solid is washed with ethanol, then with ether to yield 2-(2-pyrimidyl)pyrazolo[4,3-c][1,6]naphthyridin-3(5H)-one hydrochloride, m.p. above 350°; IR (KBr) 782, 791, 820, 830, 871 cm-1.

reactant | ethyl 4-chloro-1,6-naphthyridine-3-carboxylate | 1.75 g | ClC1=C(C=NC2=CC=NC=C12)C(=O)OCC | C11H9ClN2O2
reactant | 2-hydrazinopyrimidine hydrochloride | 1.17 g | Cl.N(N)C1=NC=CC=N1
solvent | n-butanol | 60 ml | C(CCC)O | C4H10O
product | 2-(2-pyrimidyl)pyrazolo[4,3-c][1,6]naphthyridin-3(5H)-one hydrochloride | Cl.N1=C(N=CC=C1)N1N=C2C(=CNC=3C=CN=CC23)C1=O | InChI=1S/C13H8N6O.ClH/c20-12-9-7-17-10-2-5-14-6-8(10)11(9)18-19(12)13-15-3-1-4-16-13;/h1-7,17H;1H
